US06107329
C. (±)-2-Amino-3-(2-fluorophenyl)-1-thiazolidin-3-yl-propan-1-one hydrochloride
HCl was bubbled into a solution of [1-(2-fluoro-benzyl)-2-oxo-2-thiazolidin-3-yl-ethyl]-carbamic acid tert-butyl ester (0.39 g, 1.1 mmol) in ethyl acetate (15 mL). The solution was concentrated, the residue was triturated in ether, the solid was filtered and dried (0.27 g, 84%, mp 217-218° C.).

reactant | HCl | Cl | ClH
reactant | [1-(2-fluoro-benzyl)-2-oxo-2-thiazolidin-3-yl-ethyl]-carbamic acid tert-butyl ester | 1.1 mmol, 0.39 g | C(C)(C)(C)OC(NC(C(N1CSCC1)=O)CC1=C(C=CC=C1)F)=O | C17H23FN2O3S
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | (±)-2-Amino-3-(2-fluorophenyl)-1-thiazolidin-3-yl-propan-1-one hydrochloride | Cl.NC(C(=O)N1CSCC1)CC1=C(C=CC=C1)F | InChI=1S/C12H15FN2OS.ClH/c13-10-4-2-1-3-9(10)7-11(14)12(16)15-5-6-17-8-15;/h1-4,11H,5-8,14H2;1H
